US06387911B1
2-(2,2,2-Trifluoroethylsulfonyl)benzylamine hydrochloride
To a stirred solution of N-Boc-2-(2,2,2-trifluoroethylsulfonyl)benzylamine (480 mg) in dioxane (4.0 mL) at room temperature was added excess 4.0 M HCl in dioxane. The mixture was stirred until no starting material remained by TLC and was then concentrated in vacuo to afford the title compound as an off-white solid:

reactant | N-Boc-2-(2,2,2-trifluoroethylsulfonyl)benzylamine | 480 mg | C(=O)(OC(C)(C)C)NCC1=C(C=CC=C1)S(=O)(=O)CC(F)(F)F | C14H18F3NO4S
reactant | HCl | 4.0 M | Cl | ClH
solvent | dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
product | 2-(2,2,2-Trifluoroethylsulfonyl)benzylamine hydrochloride | Cl.FC(CS(=O)(=O)C1=C(CN)C=CC=C1)(F)F | InChI=1S/C9H10F3NO2S.ClH/c10-9(11,12)6-16(14,15)8-4-2-1-3-7(8)5-13;/h1-4H,5-6,13H2;1H
